US03995063
2-nitro-1-(p-tolyl)-1-butanol
The procedure of Example 1 was followed for the reaction of 120 g of p-tolualdehyde and 114 g of sodium bisulfite with 178 g of 1-nitropropane and 80 g of sodium hydroxide. Water and ethanol were the solvents. The product obtained was a clear, yellow liquid weighing 100 g; ir (film) 2.8 (s), 3.4 (m), 6.5 (s), 7.3 (m), 9.7 (m), 12.2 (s) microns.

reactant | p-tolualdehyde | 120 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | sodium bisulfite | 114 g | S([O-])(O)=O.[Na+]
reactant | 1-nitropropane | 178 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | Water | O | H2O
product | 2-nitro-1-(p-tolyl)-1-butanol | [N+](=O)([O-])C(C(O)C1=CC=C(C=C1)C)CC | C11H15NO3
